US08486970B2
A mixture of 1.38 g of 6-(hydroxymethyl)pyridin-2(1H)-one, 2.15 g of tert-butyl bromoacetate, 3.07 g of silver oxide, and 33 mL of DMF was stirred at room temperature for 12 hours, and then at 60° C. for 12 hours. The insoluble material was separated by filtration and the filtrate was concentrated under reduced pressure. The residue was diluted with ethyl acetate, followed by washing with a saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate) to obtain 1.92 g of tert-butyl{[6-(hydroxymethyl)pyridin-2-yl]oxy}acetate as a yellow oily substance.

reactant | 6-(hydroxymethyl)pyridin-2(1H)-one | 1.38 g | OCC1=CC=CC(N1)=O | C6H7NO2
reactant | tert-butyl bromoacetate | 2.15 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
catalyst | silver oxide | 3.07 g | [Ag]=O
solvent | DMF | 33 mL | CN(C)C=O | C3H7NO
product | tert-butyl{[6-(hydroxymethyl)pyridin-2-yl]oxy}acetate | 1.92 g | C(C)(C)(C)OC(COC1=NC(=CC=C1)CO)=O | C12H17NO4
